US04258121
To 400 g of an aqueous solution of 3% by weight sodium carbonate were added 24.0 g of 1,8-naphthalic acid anhydride and 10.0 g of hydroxylamine hydrochloride and they were reacted for 2 hours at 90° C. Then, 200 g of an aqueous solution of 10% by weight sodium carbonate was added to the mixture, after filtering away insoluble materials, 100 ml of concentrated hydrochloric acid was added to the mixture, and precipitates formed were collected and recrystallized from ethanol to provide N-hydroxy-1,8-naphthalimide.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,8-naphthalic acid anhydride | 24.0 g | C1=CC2=C3C(=C1)C(=O)OC(=O)C3=CC=C2 | C12H6O3
reactant | hydroxylamine hydrochloride | 10.0 g | Cl.NO
product | N-hydroxy-1,8-naphthalimide | C1=CC2=C3C(=C1)C(=O)N(C(=O)C3=CC=C2)O | C12H7NO3
